US06727264B1
N-(3-{1-[(3,4- DIMETHYLTHIENO[2,3-B]THIEN-2-YL)METHYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE:
Prepared by Procedure F and Scheme R using 3,4-dimethylthieno[2,3-b]thiophene-2-carbaldehyde and 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide: ESMS m/e: 427.1 (M+H)+.

reactant | 3,4-dimethylthieno[2,3-b]thiophene-2-carbaldehyde | CC1=C(SC=2SC=C(C21)C)C=O | C9H8OS2
reactant | 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide | CC(C(=O)NC1=CC(=CC=C1)C1CCNCC1)C | C15H22N2O
product | N-(3-{1-[(3,4- DIMETHYLTHIENO[2,3-B]THIEN-2-YL)METHYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE | CC1=C(SC=2SC=C(C21)C)CN2CCC(CC2)C=2C=C(C=CC2)NC(C(C)C)=O | C24H30N2OS2
